Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
decreased vision right eye
 
Major Surgical or Invasive Procedure:
Exploration and partial repair of large corneoscleral laceration 
with re-positing of uveal tissue, finding of additional 
posterior scleral lacerations in zone III, and conjunctival 
closure.

 
History of Present Illness:
 ___ year old female who presents after a mechanical fall from 
standing.
Patient struck her right eye. She went outside hospital
there had a facial CT which showed fractures. Patient
reports loss of vision in the right eye. Patient transferred
for concern of globe rupture. Patient rates the pain ___.
Patient received ceftriaxone and vancomycin prior to
transfer

 
Past Medical History:
DM, HTN, Breast Cancer 
 
Social History:
___
Family History:
non-tributory
 
Physical Exam:
PHYSICAL EXAMINATION: upon admission:  ___
 
Temp: 97.7 HR: 94 BP: 191/102 Resp: 18 O(2)Sat: 97
 
Constitutional: Comfortable
HEENT: right periorbital edema and hematoma, right globe
concern for rupture
Oropharynx within normal limits
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash
Neuro: Speech fluent
Psych: Normal mood

Physical examination upon discharge:  ___

vital signs 98.4, hr=76, bp=152/82, rr= 16 97% room air

General:  Sitting comfortably, NAD

HEAD:  ecchymosis lower right lip, and chin, soft, patch right 
eye, right ___ edema, unable to fully visualize pupil, 
sclera injected/edematous, able to see light, but no objects
CV:  ns1, s2, no murmurs
LUNGS:  clear
ABDOMEN:  soft,non-tender
EXT:  no pedal edema bil, no calf tenderness bil
NEURO:  alert and oriented x 3, speech clear

 
Pertinent Results:
___ 09:15AM BLOOD WBC-12.7* RBC-3.87* Hgb-12.2 Hct-37.8 
MCV-98 MCH-31.5 MCHC-32.3 RDW-13.7 RDWSD-49.1* Plt ___
___ 09:15AM BLOOD Neuts-90.6* Lymphs-4.0* Monos-4.3* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-11.48* AbsLymp-0.51* 
AbsMono-0.55 AbsEos-0.01* AbsBaso-0.04
___ 06:56PM BLOOD Glucose-118* UreaN-12 Creat-0.8 Na-141 
K-3.5 Cl-103 HCO3-25 AnGap-17
___ 09:15AM BLOOD Glucose-161* UreaN-18 Creat-0.8 Na-139 
K-3.2* Cl-100 HCO3-21* AnGap-21*
___ 09:15AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-POS*

___:  AP pelvis:

Exam is underpenetrated due to patient body habitus and 
overlying soft tissue. Given this, no definite acute fracture is 
seen.  Patient is status post left hip arthroplasty with 
prosthesis partially imaged.  Prosthesis is in anatomic 
alignment.  Mild right hip degenerative changes are seen.  There 
are also degenerative changes along the partially imaged lower 
lumbar spine. 

___:  chest x-ray:

The left costo-phrenic angle and the very inferior left 
hemi-thorax are not 
included on the image.  Given this, no definite focal 
consolidation.  Mild 
cardiomegaly and possible slight prominence of the main 
pulmonary artery may relate to underlying pulmonary 
hypertension.  No definite acute fracture seen. 
If there is high clinical concern for acute fracture in the 
chest, CT is more sensitive 

 
Brief Hospital Course:
___ year old female admitted to the hospital after she sustained 
a fall striking her face on a metal chair resulting in a right 
open globe fracture and right orbit fracture. The patient was 
initially seen at an OSH and transferred here for medical 
management.  Because of her injury, the Ophthalmology and 
plastic surgery service were consulted.  She underwent cat scan 
imaging of the head which showed a deflated globe with likely 
VH. The patient was taken to the operating room where she 
underwent exploration and partial repair of large corneo-scleral 
laceration with re-positing of uveal tissue, finding of 
additional posterior scleral lacerations in zone
III, and conjunctival closure.

The operative course was stable and the patient was extubated 
after the procedure.  The patient was administered four doses of 
Vancomycin and Ceftazadin following the procedure.

Her post-operative course was stable. She was placed on sinus 
precautions with a right eye shield.  Antibiotic ointment was 
applied twice daily.   She resumed a regular diet and  was 
voiding without difficulty.  Her pain was controlled with oral 
analgesia.  24 hours after surgery, she had a follow-up visit 
with Ophthalmology. In preparation for discharge, the patient 
was evaluated by physical therapy and met with the social 
worker. Recommendations were made for discharge to a 
rehabilitation facility to help the patient regain her balance.  
   

The patient was discharged on HD #5 in stable condition. 
Appointments for follow-up were made with the Ophthalomology 
service and with her primary care provider.  Discharge 
instructions, including the need for sinus precautions, were 
reviewed.  

Of note:  patient has not resumed actos and metformin, may 
resume at rehab, monitor blood sugar   

   

  
 
Medications on Admission:
 ___ pharmacy: # ___, amyltriptyline 150 mg QHS, 
lisinopril 80 mg daily, latanoprost 1 GTT each eye at bedtime, 
pioglitazoe 45 mg daily, metformin 850 mg BID, levothyroxine 125 
mcg 6 days a week, levothyroxine 1.5 tabs 1 day week, 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
2.  Bisacodyl 10 mg PO DAILY:PRN constipation  
3.  Docusate Sodium 100 mg PO BID  
4.  Hydrochlorothiazide 25 mg PO DAILY 
please monitor lytes ___ decrease dose if bp tolerates  
5.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Severe 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*25 Tablet Refills:*0 
6.  Senna 8.6 mg PO BID:PRN constipation  
7.  Tobramycin-Dexamethasone Ophth Oint 1 Appl RIGHT EYE BID 
continue until follow-up with Optho.  
8.  Amitriptyline 150 mg PO QHS  
9.  DiphenhydrAMINE 12.5 mg PO QHS:PRN insomnia  
10.  Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE QHS  
11.  Levothyroxine Sodium 125 mcg PO 6X/WEEK (___) 
 
12.  Levothyroxine Sodium 175 mcg PO 1X/WEEK (SA)  
13.  Lisinopril 80 mg PO DAILY  
14.  MetFORMIN (Glucophage) 850 mg PO BID 
may resume, monitor blood sugar  
15.  Pioglitazone 45 mg PO DAILY 
monitor BS, may resume  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right open globe fracture
Right orbital fracture
Ruptured globe with uveal prolapse, right eye

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after a fall at home in which 
you sustained a fracture to the right bony socket of your eye.  
You were evaluated by the Plastic and Opthalmology service.  You 
were taken to the operating room for closure of the sac covering 
of the eye. You have since had follow-up appointments within the 
hospital.

 SINUS PRECAUTIONS

Because of the close relationship between the upper back teeth 
and the sinus, a communication between the sinus and the mouth 
sometimes results from surgery. This condition has occurred in 
your case, which often heals slowly and with difficulty. Certain 
precautions will assist healing and we ask that you faithfully 
follow these instructions:

1. Take the prescribed medications as directed.

2. Do not forcefully spit for several days.

3. Do not smoke for several days.

4. Do not use straws for several days.

5. Do not forcefully blow your nose for at least 2 weeks, even 
though your sinus may feel _x0093_stuffy_x0094_ or there may be some nasal 
drainage.

6. Try not to sneeze; it will cause undesired sinus pressure. If 
you must sneeze, keep your mouth open.

7. Eat only soft foods for several days, always trying to chew 
on the opposite side of your mouth.

8. Do not rinse vigorously for several days. GENTLE salt water 
swishes may be used. Slight bleeding from the nose is not 
uncommon for several days after the surgery. Please keep our 
office advised of any changes in your condition, especially if 
drainage or pain increases. It is important that you keep all 
future appointments until this condition has resolved

additional instructions:

You experience new chest pain, pressure, squeezing or tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you ie, increased pain right eye, increased swelling right eye

   
 
Followup Instructions:
___